US07129235B2
N-(4-tert-butylphenyl)-3′-chloro-3,6-dihydro-2H-1,2′-bipyridine-4-carboxamide
3′-Chloro-3,6-dihydro-2H-1,2′-bipyridine-4-carboxylic acid (120 mg, 0.35 mmol), 4-tert-butylaniline (90.0 mg, 0.6 mmol), and EDCI (145 mg, 0.75 mmol) were combined in dichloromethane (3 mL) under N2 and stirred at room temperature overnight. The mixture was treated with water and the layers were separated. The organic layer was concentrated and the residue was purified via column chromatography (SiO2, ethyl acetate:hexanes, 1:4) to provide the title compound. 1H NMR (500 MHz, CDCl3) δ 8.18 (dd, 1H), 7.61 (dd, 1H), 7.46 (d, 2H), 7.38 (s(br), 1H), 7.35 (d, 2H), 6.85 (dd, 1H), 6.75 (m, 1H), 4.10 (dd, 2H), 3.58 (dd, 2H), 2.68 (m, 2H), 1.30 (s, 9H); MS (ESI) 370 (M+H)+.

reactant | 3′-Chloro-3,6-dihydro-2H-1,2′-bipyridine-4-carboxylic acid | 0.35 mmol, 120 mg | ClC=1C(=NC=CC1)N1CCC(=CC1)C(=O)O | C11H11ClN2O2
reactant | 4-tert-butylaniline | 0.6 mmol, 90.0 mg | C(C)(C)(C)C1=CC=C(N)C=C1 | C10H15N
reactant | EDCI | 0.75 mmol, 145 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | water | O | H2O
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | N-(4-tert-butylphenyl)-3′-chloro-3,6-dihydro-2H-1,2′-bipyridine-4-carboxamide | C(C)(C)(C)C1=CC=C(C=C1)NC(=O)C=1CCN(CC1)C1=NC=CC=C1Cl | C21H24ClN3O
